US04282388
19.4 g (0.19 mol) of cis-1,2-cyclopentanediol were added dropwise to a suspension of 4.8 g (0.2 mol) of sodium hydride (6.0 g of 80% pure sodium hydride in toluene) in 200 ml of dioxan at 5° C. under a nitrogen atmosphere, whilst stirring. After the evolution of hydrogen had ended, the mixture was warmed to 70° C. for 45 minutes and then brought to room temperature and 359 g (0.19 mol) of 2-fluorobenzyl bromide in absolute dioxan were added. After stirring the mixture for 30 minutes, it was heated to the boil for a further 4 hours and cooled and about 10 ml of methanol were added. The mixture was concentrated to dryness on a rotary evaporator, the residue was taken up in water and the mixture was extracted with methylene chloride. The organic phase was dried over sodium sulphate and filtered and the solvent was stripped off from the filtrate on a rotary evaporator. The oily residue was distilled under an oil pump vacuum. 18.4 g (46% of theory) of cis-1-(2-fluorobenzyloxy)-cyclopentan-2-ol of boiling point 95°-100° C./0.1 mm Hg were obtained.

reactant | cis-1,2-cyclopentanediol | 0.19 mol, 19.4 g | [C@@H]1([C@H](CCC1)O)O | C5H10O2
reactant | sodium hydride | 0.2 mol, 4.8 g | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-fluorobenzyl bromide | 0.19 mol, 359 g | FC1=C(CBr)C=CC=C1 | C7H6BrF
solvent | dioxan | 200 ml | O1CCOCC1 | C4H8O2
solvent | methanol | about 10 ml | CO | CH4O
product | cis-1-(2-fluorobenzyloxy)-cyclopentan-2-ol | 18.4 g, 46% | FC1=C(CO[C@H]2[C@H](CCC2)O)C=CC=C1 | C12H15FO2
